US08802690B2
Acid Preparation 15: 7-bromo-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-5-carboxylic acid
Methyl 7-bromo-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-5-carboxylate (238 mg, 0.878 mmol) and 2 N aqueous sodium hydroxide (1.50 mL, 3.0 mmol) were combined in methanol (5 mL) and heated to 50° C. for 90 minutes. The reaction solution was concentrated to remove the methanol. To the reaction residue was added ethyl acetate (5 mL). The resultant solution was acidified with 1N aqueous hydrochloric acid (1.5 mL) to give a final pH of 4. A precipitate formed which was filtered and dried under vacuum to give the title compound (226 mg, 100%) as a solid. 1H NMR (400 MHz, CD3OD) 3 ppm 7.89 (d, J=1.37 Hz, 1H) 7.65 (d, J=−1.37 Hz, 1H).

reactant | Methyl 7-bromo-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-5-carboxylate | 0.878 mmol, 238 mg | BrC1=CC(=CC2=C1NC(N2)=O)C(=O)OC | C9H7BrN2O3
reactant | sodium hydroxide | 3.0 mmol, 2 N, 1.50 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 7-bromo-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-5-carboxylic acid | 226 mg, 100% | BrC1=CC(=CC2=C1NC(N2)=O)C(=O)O | C8H5BrN2O3
